US04496569
A mixture of 50 g of 3-cyano-2(1H)-quinolinone and 250 ml of phosphoryl chloride was heated at reflux for 18 hours. Volatile material was evaporated from the mixture under reduced pressure and the resulting residue was carefully added to water. The solid which formed was separated by filtration, washed with water and dried to give crude product. This was dissolved in methylene chloride and the resulting solution was treated with silica gel and filtered to give a pale yellow solution. Hexane was added to the solution which was then placed on a steam bath until crystallization occurred. The solid was then separated by filtration to give 2-chloro-3-cyanoquinoline. This compound melts at about 163°-164° C.

reactant | 3-cyano-2(1H)-quinolinone | 50 g | C(#N)C=1C(NC2=CC=CC=C2C1)=O | C10H6N2O
reactant | phosphoryl chloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Hexane | CCCCCC | C6H14
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-3-cyanoquinoline | ClC1=NC2=CC=CC=C2C=C1C#N | C10H5ClN2
